US08614234B2
Methyl 5-(4-((3-nitrophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate (1.32 g, 3.9 mmol) was taken up in EtOAc/EtOH (1:1; 90 mL) and purged with N2. Pd/C (10%, 0.145 g) was added and the mixture was stirred under an atmosphere of H2 at rt for 18 h. The mixture was filtered over celite, washing with EtOAc/EtOH. The filtrate was concentrated, taken back up in EtOAc and filtered over celite again to remove any residual catalyst. The filtrate was concentrated again and taken back up in EtOAc. The solution was filtered and the filtrate was concentrated to afford a tan solid. The solid was washed with CH2Cl2/hexanes (1:2) and dried under high vacuum to afford methyl 5-(4-((3-aminophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate (1.15 g, 96% yield) as a tan solid.

reactant | Methyl 5-(4-((3-nitrophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate | 3.9 mmol, 1.32 g | [N+](=O)([O-])C=1C=C(C=CC1)NC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C17H14N4O4
solvent | EtOAc EtOH | 90 mL | CCOC(=O)C.CCO
product | methyl 5-(4-((3-aminophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate | 1.15 g, 96% yield | NC=1C=C(C=CC1)NC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C17H16N4O2
